US04914112
To 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (0.50 g, 1.68 mmol) in acetone (10 ml) were added phenylisothiocyanate (0.25 g, 1.85 mmol) in acetone (5 ml) and sodium hydrogen carbonate (0.30 g). After the mixture was refluxed for 10 h, phenyisothiocyanate (0.50 g, 3.70 mmol) was added to the mixture, and then the mixture was refluxed for 2 h. The mixture was evaporated under reduced pressure to a residue, which was chromatographed and recrystallized to afford N-phenyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)thiourea (0.115 g, 16% yield) as crystalline material: mp 176.5°-177.0° C.

reactant | 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 1.68 mmol, 0.50 g | NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C17H15FN2S
reactant | phenylisothiocyanate | 1.85 mmol, 0.25 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | phenyisothiocyanate | 3.70 mmol, 0.50 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | 0.30 g | C(O)([O-])=O.[Na+]
product | N-phenyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)thiourea | 0.115 g, 16% yield | C1(=CC=CC=C1)NC(=S)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C24H20FN3S2
